US07994164B2
(E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3R,4R)-3-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide
Dissolve (3R,4R)-4-[4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenylamino]-1-methyl-piperidin-3-ol (0.009 mol, 4.48 g) in tetrahydrofuran (100 mL). Add triethylamine (0.018 mol, 1.83 g) and 10% platinum on carbon (2.2 g) and hydrogenate in a Parr shaker at 50 psi (H2) at room temperature for 4 h. Filter off the catalyst through a plug of diatomaceous earth. Add pyridine (100 mL) and diphenyl N-cyanocarbonimidate (0.009 mol, 2.16 g) to the filtrate. Stir at room temperature for 16 h and then heat at 60-70° C. for 8 h. Remove the solvent under reduced pressure. Dissolve the residue in dichloromethane and wash with water and saturated sodium bicarbonate solution. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify on a silica gel column using 5% methanol in dichloromethane as eluent to obtain the title compound (1.2 g, 26%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.66-1.8 (m, 1H), 1.75-1.78 (m, 1H), 1.87-1.90 (m, 1H), 2.03 (br s, 1H), 2.24 (s, 3H), 2.81 (br s, 1H), 2.96 (br s, 1H), 3.99 (br s, 1H), 4.31 (br s, 1H), 5.09 (s, 1H), 5.36 (br s, 1H), 5.46 (br s, 1H), 6.68 (dd, 1H), 6.82-6.87 (m, 3H), 6.99 (d, 1H), 7.09 (s, 1H), 7.26-7.35 (m, 3H), 7.62 (t, 1H), 12.49 (br s, 1H).

reactant | (3R,4R)-4-[4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenylamino]-1-methyl-piperidin-3-ol | 0.009 mol, 4.48 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@H]2[C@@H](CN(CC2)C)O)[N+](=O)[O-])C=CC=C3F)C1 | C27H25F2N3O4
reactant | triethylamine | 0.018 mol, 1.83 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | diphenyl N-cyanocarbonimidate | 0.009 mol, 2.16 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | 2.2 g | [Pt] | Pt
product | (E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3R,4R)-3-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 1.2 g, 26% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@H]4[C@@H](CN(CC4)C)O)C=C2)C=CC=C3F)C1 | C29H25F2N5O2
